US06071925
(RS)-8-(4-Chloro-indan-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m.p.>230° C. and MS: m/e=382.2 (M+H+) was prepared in accordance with the general method of example 34 from 4-chloro-indan-1-one and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 4-chloro-indan-1-one | ClC1=C2CCC(C2=CC=C1)=O | C9H7ClO
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | (RS)-8-(4-Chloro-indan-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC1=C2CCC(C2=CC=C1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C22H24ClN3O.ClH/c23-19-8-4-7-18-17(19)9-10-20(18)25-13-11-22(12-14-25)21(27)24-15-26(22)16-5-2-1-3-6-16;/h1-8,20H,9-15H2,(H,24,27);1H
